US06066658
A solution of sodium hydroxide (1.65 g) in water (3 ml) was added to a solution of benzamidine hydrochloride (5.38 g) in water (2 ml) at room temperature; a solution of ethyl 5-bromo-4,5,6,7-tetrahydro-3-methylthio-4-oxobenzo[c]thiophene-1-carboxylate (2.00 g) in chloroform (30 ml) was further added. The reaction mixture was refluxed under heating for 3 days, after which it was poured over water and extracted with ethyl acetate. The organic layer was washed with water and dried (MgSO4), after which the solvent was distilled off. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (1:2, v/v) to yield ethyl 4,5-dihydro-8-methylthio-2-phenylthieno[3,4-e]benzimidazole-6-carboxylate (0.28 g, 13.2%), which was then recrystallized from ethyl acetate-ethanol. Brown prisms. Melting point 218-219° C.

reactant | sodium hydroxide | 1.65 g | [OH-].[Na+]
reactant | benzamidine hydrochloride | 5.38 g | Cl.C(C1=CC=CC=C1)(=N)N
reactant | ethyl 5-bromo-4,5,6,7-tetrahydro-3-methylthio-4-oxobenzo[c]thiophene-1-carboxylate | 2.00 g | BrC1C(C=2C(=C(SC2SC)C(=O)OCC)CC1)=O | C12H13BrO3S2
solvent | water | 3 ml | O | H2O
solvent | water | 2 ml | O | H2O
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 4,5-dihydro-8-methylthio-2-phenylthieno[3,4-e]benzimidazole-6-carboxylate | 0.28 g, 13.2% | CSC=1SC(=C2C1C1=C(N=C(N1)C1=CC=CC=C1)CC2)C(=O)OCC | C19H18N2O2S2
